US08426447B2
A vial charged with 2-fluoropyridin-3-ylboronic acid (0.156 g, 1.105 mmol), palladiumtetrakis (0.043 g, 0.037 mmol), potassium carbonate (0.255 g, 1.842 mmol), and 7-bromo-3-(2-methoxy-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (0.160 g, 0.368 mmol) was dissolved in 3 mL THF and 0.5 mL water and was heated to 110° C. 2 hours. The reaction mixture was diluted with EtOAc and dried over MgSO4. The organics were concentrated then purified directly by column chromatography yielding 7-(2-fluoropyridin-3-yl)-3-(2-methoxy-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine.

reactant | 2-fluoropyridin-3-ylboronic acid | 1.105 mmol, 0.156 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 1.842 mmol, 0.255 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-bromo-3-(2-methoxy-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.368 mmol, 0.160 g | BrC=1C=C2C(=CC1)OC1=NC=C(C=C1C21N=C(OC1)N)OCC(C)(C)OC | C19H20BrN3O4
reactant | water | 0.5 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladiumtetrakis | 0.037 mmol, 0.043 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2-fluoropyridin-3-yl)-3-(2-methoxy-2-methylpropoxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | FC1=NC=CC=C1C=1C=C2C(=CC1)OC1=NC=C(C=C1C21N=C(OC1)N)OCC(C)(C)OC | C24H23FN4O4
